US06953855B2
The saturated ketone intermediates, such as 2-((3-pyridinyl)methyl)-1-azabicyclo[2.2.2]octan-3-one, also present opportunities for derivatization. One example is the reaction with phosphorus ylids (Wittig and Horner-Emmons reagents) to give alkenes. These alkenes can subsequently be reduced to alkanes by catalytic hydrogenation, providing a means of producing 2-((heteroaryl)alkyl)-1-azabicycles with alkyl and substituted alkyl substituents at the 3-position of the azabicycle. Thus, by way of example, 2-((3-pyridinyl)methyl)-1-azabicyclo[2.2.2]octan-3-one reacts with methylenetriphenylphosphorane to give 3-methylene-2-((3-pyridinyl)methyl)-1-azabicyclo[2.2.2]octane. Hydrogenation of this alkene, for example, over palladium on carbon catalyst, yields 3-methyl-2-((3-pyridinyl)methyl)-1-azabicyclo[2.2.2]octane as predominantly the cis diastereomer.

reactant | 2-((3-pyridinyl)methyl)-1-azabicyclo[2.2.2]octan-3-one | N1=CC(=CC=C1)CC1N2CCC(C1=O)CC2 | C13H16N2O
reactant | methylenetriphenylphosphorane | C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H17P
product | 3-methylene-2-((3-pyridinyl)methyl)-1-azabicyclo[2.2.2]octane | C=C1C(N2CCC1CC2)CC=2C=NC=CC2 | C14H18N2
